US07345068B2
Methyl ester of 2-(2-dimethylaminopyrimidin-5-yl)benzoxazole-7-carboxylic acid (480 mg, 1.61 mmol) was reduced by using lithium aluminium hydride as in Preparation 2-3) to give 2-(2-dimethylamino-pyrimidin-5-yl)benzoxazole-7-methanol (234 mg, 54%) as yellow crystals.

reactant | 2-(2-dimethylaminopyrimidin-5-yl)benzoxazole-7-carboxylic acid | 1.61 mmol, 480 mg | CN(C1=NC=C(C=N1)C=1OC2=C(N1)C=CC=C2C(=O)O)C | C14H12N4O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(2-dimethylamino-pyrimidin-5-yl)benzoxazole-7-methanol | 234 mg, 54% | CN(C1=NC=C(C=N1)C=1OC2=C(N1)C=CC=C2CO)C | C14H14N4O2
